US08138178B2
(R)-3-((S)-1-(4-(6-aminopyridin-3-yl)phenyl)ethyl)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-1,3-oxazinan-2-one (400 mg, 0.88 mmol.) was dissolved in 3.5 M H2SO4 (10 mL), and 2 M NaNO2 (6 mL) was added at 0° C. The reaction mixture was stirred at rt for 20 min. The reaction mixture was then treated with aqueous NaOH solution (8%), and extracted with CH2Cl2. The combined organic layer was washed with brine, dried over anhydrous Na2SO4, and concentrated to give crude product, which was purified by preparative TLC to give (R)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-3-((S)-1-(4-(6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-1,3-oxazinan-2-one (350 mg, 0.78 mmol). 1H NMR (CDCl3): δ=1.10-1.25 (m, 8H), 1.37 (m, 1H), 1.42-1.55 (m, 2H), 1.78-1.93 (m, 2H), 2.10-2.38 (m, 2H), 2.87 (m, 2H), 3.52-3.58 (m, 1H), 3.31-3.97 (m, 1H), 4.12-4.19 (m, 1H), 5.53-5.63 (m, 1H), 6.85-7.15 (m, 3H), 7.35-7.55 (m, 1H), 7.75-7.89 (m, 1H), 8.10-8.12 (m, 1H).

reactant | (R)-3-((S)-1-(4-(6-aminopyridin-3-yl)phenyl)ethyl)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-1,3-oxazinan-2-one | 0.88 mmol, 400 mg | NC1=CC=C(C=N1)C1=CC=C(C=C1)[C@H](C)N1C(O[C@@](CC1)(CCCO)C1=CC=C(C=C1)F)=O | C26H28FN3O3
reactant | NaNO2 | 2 M, 6 mL | N(=O)[O-].[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | H2SO4 | 3.5 M, 10 mL | OS(=O)(=O)O | H2O4S
product | (R)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-3-((S)-1-(4-(6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 0.78 mmol, 350 mg | FC1=CC=C(C=C1)[C@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CNC(C=C1)=O)CCCO | C26H27FN2O4
